US06995263B2
A solution of 5-amino indole (2 g, 15.2 mmol) and di-tert-butyl dicarbonate (3.49 g. 15.2 mmol) in dichloromethane (20 ml) was stirred at ambient temperature overnight. The reaction mixture was concentrated under reduced pressure to yield crude (1H-indol-5-yl)-carbamic acid tert-butyl ester (3.47 g) which was used in the next step without further purification.

reactant | 5-amino indole | 15.2 mmol, 2 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | di-tert-butyl dicarbonate | 15.2 mmol, 3.49 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (1H-indol-5-yl)-carbamic acid tert-butyl ester | 3.47 g | C(C)(C)(C)OC(NC=1C=C2C=CNC2=CC1)=O | C13H16N2O2
